US07625888B2
Step D: tert-Butyl 2-(trifluoromethyl)-5,8-dihydropyrido[3,4-d]pyrimidine-7(6H)-carboxylate
To a solution of 600 mg (2.5 mmol) of 2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine hydrochloride and 0.883 mL (5 mmol) of N,N-diisopropylethylamine in 10 mL of dichloromethane, stirred in an ice bath under protection from moisture, was added 676 mg (3 mmol) of di-tert-butyl dicarbonate. The ice bath was removed, and the solution was stirred at room temperature for 2.5 h. The solvent was removed by rotary evaporation, and the residue was purified by flash chromatography on silica gel (10-30% ethyl acetate in hexanes) to give the title compound as a colorless oil. LC-MS 304 (M+1).

reactant | 2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine hydrochloride | 2.5 mmol, 600 mg | Cl.FC(C=1N=CC2=C(N1)CNCC2)(F)F
reactant | N,N-diisopropylethylamine | 5 mmol, 0.883 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyl dicarbonate | 3 mmol, 676 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-Butyl 2-(trifluoromethyl)-5,8-dihydropyrido[3,4-d]pyrimidine-7(6H)-carboxylate | FC(C=1N=CC2=C(N1)CN(CC2)C(=O)OC(C)(C)C)(F)F | C13H16F3N3O2
